US07030139B2
32A: N-(4-fluoro-3-nitrophenyl)acetamide
4-Fluoro-3-nitro-aniline (45.0 g) was added portionwise to acetic anhydride (150 mL) at room temperature. The reaction mixture was stirred at room temperature for 2 h. The desired product precipitated and it was collected and dried in vacuo (42.0 g, 70%).

reactant | 4-Fluoro-3-nitro-aniline | 45.0 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | acetic anhydride | 150 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-(4-fluoro-3-nitrophenyl)acetamide | FC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C8H7FN2O3
